US04549028
In a 100 l-volume hasteroi-made autoclave was placed 7.2 kg (30 moles) of a potassium bisulfite addition salt of phenylacetaldehyde, 1.76 kg (35.9 moles) of sodium cyanide, 4.32 kg (45 mole) of ammonium carbonate, 6 l (90 mole) of a 25% aqueous ammonia, 9 l of methanol and 24 l of water and the mixture was reacted at 100° C. for 2 hours to obtain precursors of phenylalanine. After the ammonia and methanol were removed by heating the reaction solution, the hydrolysis was carried out at 150° C. for 1.0 hour using 4.8 kg (120 moles) of caustic soda.

reactant | potassium bisulfite | 30 moles, 7.2 kg | S([O-])(O)=O.[K+]
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanide | 35.9 moles, 1.76 kg | [C-]#N.[Na+]
reactant | ammonium carbonate | 45 mole, 4.32 kg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ammonia | N | H3N
solvent | water | 24 l | O | H2O
solvent | methanol | 9 l | CO | CH4O
product | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
